US07947684B2
A. 4-(3-Cyanophenyl)-3,6-dihydro-2H-pyridin-1-carboxylic acid tert-butyl ester
3-Cyanophenyl boronic acid (1.8 g, 12.2 mmol) and 4-(trifluoromethanesulfonyloxy)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (5.0 g, 15.2 mmol;) are dissolved in acetonitrile (60 ml) and 0.4 M aqueous sodium carbonate (60 ml). The solution is degassed and treated with palladium tetrakistriphenyl phosphine (0.81 g, 0.7 mmol) at 90° C. for 1 hour. The reaction is cooled, filtered warmed and the filtrate is concentrated to an oil. The oil is extracted with methylene chloride (3×) and the solvent is removed under vacuum. The residue is chromatographed (15% ethyl acetate/hexane) to give the title compound as a white solid (2.7 g, 9.5 mmol). 1H NMR (CDCl3, 300 MHz) δ 7.63 (s, 1H), 7.55 (m, 2H), 7.44 (t, 1H), 6.10 (br, 1H), 4.09 (m, 2H), 3.63 (t, 2H), 2.50 (br, 2H). EI MS M++1: 285.

reactant | 3-Cyanophenyl boronic acid | 12.2 mmol, 1.8 g | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
reactant | 4-(trifluoromethanesulfonyloxy)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 15.2 mmol, 5.0 g | C(C)(C)(C)OC(=O)N1CCC(=CC1)OS(=O)(=O)C(F)(F)F | C11H16F3NO5S
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
solvent | sodium carbonate | 0.4 M, 60 ml | C([O-])([O-])=O.[Na+].[Na+]
product | 4-(3-Cyanophenyl)-3,6-dihydro-2H-pyridin-1-carboxylic acid tert-butyl ester | 9.5 mmol, 2.7 g | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC(=CC=C1)C#N | C17H20N2O2
